US09062048B2
Step A: ethyl 2-(((benzyloxy)carbonyl)(methyl)amino)acetate
A rapidly stirred mixture of ethyl acetate and saturated aqueous sodium bicarbonate containing commercially available commercially available 2 ethyl 2-(methylamino)acetate (1.91 g, 12.4 mmol, HCl salt) was cooled to 0° C. and treated dropwise with benzyl chloroformate (4.10 mL, 12.3 mmol). After stirring overnight warming to room temperature, the aqueous layer was removed and the organic layer concentrated in vacuo. Purification of the residue by flash chromatography (silica gel, DCM) yielded the product.

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl 2-(methylamino)acetate | 12.4 mmol, 1.91 g | CNCC(=O)OCC | C5H11NO2
reactant | benzyl chloroformate | 12.3 mmol, 4.10 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(((benzyloxy)carbonyl)(methyl)amino)acetate | C(C1=CC=CC=C1)OC(=O)N(CC(=O)OCC)C | C13H17NO4
